US08809342B2
5-(Benzhydrylidene-amino)-pyrimidine-2-carboxylic acid methyl ester (9.83 g, 31.0 mmol) was dissolved in methanol (100 mL) and sodium acetate (12.2 g, 149 mmol) was added followed by hydroxylamine hydrochloride (7.75 g, 112 mmol). This was stirred at room temperature as a pale yellow mixture. At 3 h another 7.75 g of hydroxylamine hydrochloride and 12.2 g of sodium acetate were added. At 4 d, silica gel was added directly to the reaction mixture for dry loading purposes. Purification by silica gel flash chromatography (methanol/ethyl acetate) gave 5-amino-pyrimidine-2-carboxylic acid methyl ester impure with acetic acid (6.074 g, 79%) as a white solid. After placing in a vacuum oven for 6 d, some of the acetic acid was removed. The material was carried on as is. 1H NMR (400 MHz, DMSO-d6, δ): 8.15 (s, 2 H) 6.35 (s, 2 H) 3.79 (s, 3 H); MS (M+1): 154.8.

reactant | 5-(Benzhydrylidene-amino)-pyrimidine-2-carboxylic acid methyl ester | 31.0 mmol, 9.83 g | COC(=O)C1=NC=C(C=N1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15N3O2
reactant | sodium acetate | 149 mmol, 12.2 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 112 mmol, 7.75 g | Cl.NO
reactant | hydroxylamine hydrochloride | 7.75 g | Cl.NO
reactant | sodium acetate | 12.2 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 5-amino-pyrimidine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=N1)N | C6H7N3O2
